US08013154B2
To a solution of 2-amino-4,6-dichloropyrimidine (4.10 g, 25 mmol) in anhydrous THF (125 mL), under an atmosphere of N2, at 0° C. was added NaH (25 mmol, 1.02 g, 60% in mineral oil) and the mixture was stirred for 20 min. To this mixture was added 4-trifluoromethylphenyl isocyanate (4.678 g, 25 mmol) and stirred at 0° C. for 2 h. The mixture was poured into a mixture of ethyl acetate and 2N aq. HCl and the organic phase separated. The organic phase was washed with sodium bicarbonate and brine, dried (MgSO4), filtered and concentrated in vacuo to give a solid. This solid was mixed with ether and filtered to give N′-[4,6-dichloropyrimidin-2-yl]-N-[4-(trifluoromethyl)phenyl]urea (2.6 g, 30% yield): m.p. 99-101° C.; 1H NMR (DMSO-d6) δ 10.78 (bs, 1H), 10.55 (bs, 1H), 7.69 (m, 4H), 7.58 (s, 1H); ESI/MS 348.88 (M−H) 350.97 (M+H).

reactant | 2-amino-4,6-dichloropyrimidine | 25 mmol, 4.10 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | NaH | 25 mmol, 1.02 g | [H-].[Na+]
reactant | 4-trifluoromethylphenyl isocyanate | 25 mmol, 4.678 g | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
reactant | HCl | 2N | Cl | ClH
solvent | THF | 125 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N′-[4,6-dichloropyrimidin-2-yl]-N-[4-(trifluoromethyl)phenyl]urea | 2.6 g, 30% yield | ClC1=NC(=NC(=C1)Cl)NC(NC1=CC=C(C=C1)C(F)(F)F)=O | C12H7Cl2F3N4O
